US08278319B2
Stage 4: (S)-2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-3-oxo-1,2,3,4-tetrahydropyrazin-2-yl)acetic acid (S10)
TFA (1.5 ml) was added to a cooled (0° C.) solution of (S)-tert-butyl 2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-3-oxo-1,2,3,4-tetrahydropyrazin-2-yl)acetate (210 mg, 1 eq) in DCM (6 ml) and the mixture was stirred for 2 h at room temperature. The solvent was removed under vacuum and the residue used in the subsequent stage.

reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-tert-butyl 2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-3-oxo-1,2,3,4-tetrahydropyrazin-2-yl)acetate | 210 mg, 1 eq | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1[C@H](C(NC=C1)=O)CC(=O)OC(C)(C)C)C | C19H26N2O6S
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-3-oxo-1,2,3,4-tetrahydropyrazin-2-yl)acetic acid | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1[C@H](C(NC=C1)=O)CC(=O)O)C | C15H18N2O6S
